US07427612B2
5-Methylsulfanyl-2-morpholin-4-yl-benzoic acid
A mixture of 2-Chloro-5-(methylthio)-benzoic acid (1 g, 4.7 mmol), morpholine (620 ul, 7.1 mmol), potassium carbonate (1.05 g, 7.6 mmol) and Copper (24 mg, 0.38 mmol) in pentanol (6 ml) was stirred for 1 h at room temperature. The mixture was heated to 100° C and stirred for 40 minutes. The solvent was evaporated. The residue was taken up in water and acidified to pH 2. The aqueous layer was extracted twice with ethylacetate. The organic layers were combined, dried over Na2SO4, filtered and the solvent was removed in vacuo. The crude oil was chromatographed over silicagel: eluent: heptane/ethylacetate 0-20% over 15 minutes to provide the title compound as a brown solid (120 mg, 10%), MS (m/e): 252.1 (M−H, 100%)

reactant | 2-Chloro-5-(methylthio)-benzoic acid | 4.7 mmol, 1 g | ClC1=C(C(=O)O)C=C(C=C1)SC | C8H7ClO2S
reactant | morpholine | 7.1 mmol, 620 ul | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 7.6 mmol, 1.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | pentanol | 6 ml | C(CCCC)O | C5H12O
catalyst | Copper | 0.38 mmol, 24 mg | [Cu] | Cu
product | 5-Methylsulfanyl-2-morpholin-4-yl-benzoic acid | 120 mg, 10% | CSC=1C=CC(=C(C(=O)O)C1)N1CCOCC1 | C12H15NO3S
